// Generated for: spectre
// Generated on: Sep 21 13:35:29 2020
// Design library name: fun_lib
// Design cell name: Inverter_s45
// Design view name: schematic
simulator lang=spice
*Used for ALD1103 chips
*Note: Properties L=10u W=880u
.MODEL NMOS NMOS (LEVEL=3 
+TPG=1 TOX=6.00E-8 LD=2.08E-6 WD=4.00E-7
+U0= 1215 VTO=0.73 THETA=0.222 RS=0.74 RD=0.74 DELTA=2.5 
+NSUB=1.57E16 XJ=1.3E-6 VMAX=4.38E6 ETA=0.913 KAPPA=0.074 NFS=3E11
+CGSO=5.99E-10 CGDO=5.99E-10 CGBO=4.31E-10 PB=0.90 XQC=0.4)
*
*Used for ALD1103 chips
*Note: Properties L=10u W=880u
.MODEL  PMOS PMOS (LEVEL=3 
+TPG=1 TOX=6.00E-8 LD=2.08E-6 WD=4.00E-7
+U0=550 VTO=-0.89 THETA=0.222 RS=0.74 RD=0.74 DELTA=2.5 
+NSUB=1.57E16 XJ=1.3E-6 VMAX=4.38E6 ETA=0.913 KAPPA=0.074 NFS=3E11
+CGSO=5.99E-10 CGDO=5.99E-10 CGBO=4.31E-10 PB=0.90 XQC=0.4)
simulator lang=spectre
global 0
include "/apps/cadence/gpdk/gpdk045_v_5_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: fun_lib
// Cell name: Inverter_s45
// View name: schematic
NM0 (Vout Vin net06 net06) NMOS w=880u l=10u nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
PM0 (Vout Vin net08 net08) PMOS w=(2524.61u) l=10u nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
V0 (net09 0) vsource dc=3 type=dc
V2 (Vin 0) vsource type=pulse val0=0 val1=3 period=500.0m
R1 (net06 0) resistor r=9772372.209558113 tc1=0 tc2=0 c=0
R0 (net09 net08) resistor r=912010.8393559096 tc1=0 tc2=0 c=0
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc dev=V2 param=dc start=0 stop=3 write="spectre.dc" oppoint=rawfile \
    maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save Vin Vout 
saveOptions options save=allpub
